US07153863B2
A solution of 2-(diethoxymethyl)-3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine (1.3 g, 3.8 mmol) in tetrahydrofuran (20 mL) was treated with aqueous hydrochloric acid (10 mL 4 M), the resultant solution was stirred for 18 h. The solvents were removed in vacuo and the residue was taken up in dichloromethane and the pH adjusted to >7 with 1N aqueous sodium hydroxide. The organic layer was washed with brine. The aqueous layer was extracted with dichloromethane and the combined organics were dried over sodium sulfate. Filtration and concentration followed flash chromatography on silica gel (1:1 to 1:2 hexane-ethyl acetate) provided 3-[2-(Methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine-2-carbaldehyde (804 mg, 790%) as a yellow solid. 1H NMR (CDCl3) δ 10.42 (s, 1H), 8.61–8.58 (m, 3H), 7.92 (d, 1H), 7.44 (m, 1H), 7.12 (m, 1H), 2.65 (s, 3H); MS m/z 271 (M+1).

reactant | 2-(diethoxymethyl)-3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | 3.8 mmol, 1.3 g | C(C)OC(C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)SC)OCC | C17H20N4O2S
reactant | hydrochloric acid | 4 M, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-[2-(Methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine-2-carbaldehyde | 804 mg, 790% | CSC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=O | C13H10N4OS
